US05883106
The above mixture of a mixture of diethyl 3-benzyloxy-5-fluorophenylmalonate and diethyl malonate (ca. 1:1.2, 1.0 g), DMSO (10 ml), water (0.1 ml), and LiCl (346 mg) were placed in a 50 ml round-bottom flask equipped with a magnetic stirrer and fitted with a condenser. The mixture was heated at reflux for 5 hr. The mixture was poured into water (50 ml) and the whole extracted with n-hexane (2×50 ml). The combined organic extracts were washed with water (50 ml), brine (50 ml) and dried over Na2SO4. Removal of solvent gave 283 mg (57%) of ethyl 3-benzyloxy-5-fluorophenylacetate as a yellow oil.

reactant | diethyl 3-benzyloxy-5-fluorophenylmalonate | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C(C(=O)OCC)C(=O)OCC | C20H21FO5
reactant | diethyl malonate | 1.0 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | DMSO | 10 ml | CS(=O)C | C2H6OS
reactant | LiCl | 346 mg | [Li+].[Cl-]
solvent | water | 50 ml | O | H2O
solvent | water | 0.1 ml | O | H2O
product | ethyl 3-benzyloxy-5-fluorophenylacetate | 283 mg, 57% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)CC(=O)OCC | C17H17FO3
